US05635506
2-Acetamidoanthracene was prepared in 97% yield by stirring a solution of 1 equivalent of 2-aminoanthracene and 1.5 equivalents of acetic anhydride in dry tetrahydrofuran for 3 hours at room temperature. This product (2.9 g) was dissolved in 35 ml of carbon disulfide and 4 ml of oxalyl chloride was added. The stirred mixture was cooled to 0° C. and treated with 2.5 g of anhydrous aluminum chloride. Another 35 ml of carbon disulfide and 2.5 g of aluminum chloride were added after 2 hours. The mixture was stirred 2 hours at 0° C. and overnight at room temperature and then treated with dilute HCl. The brown precipitate that formed was washed with water and then digested well with 5% NaOH solution. After collection, the insoluble solids were washed with water and dried in air to give 1.25 g (35%) of a mixture of 2-,6-, and 7-acetamido-1,9-oxalylanthracenes.

reactant | 2-aminoanthracene | 1 equivalent | NC1=CC2=CC3=CC=CC=C3C=C2C=C1 | C14H11N
reactant | acetic anhydride | 1.5 equivalents | C(C)(=O)OC(C)=O | C4H6O3
reactant | oxalyl chloride | 4 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | aluminum chloride | 2.5 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | aluminum chloride | 2.5 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | HCl | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | carbon disulfide | 35 ml | C(=S)=S | CS2
solvent | carbon disulfide | 35 ml | C(=S)=S | CS2
product | 2-Acetamidoanthracene | 97% yield | C(C)(=O)NC1=CC2=CC3=CC=CC=C3C=C2C=C1 | C16H13NO
